US07625903B2
2-[(5-Chloro-2-{[3-(1-pyrrolidinylmethyl)phenyl]amino}-4-pyrimidinyl)amino]benzamide
2-[(2,5-Dichloro-4-pyrimidinyl)amino]benzamide (200 mg, 0.6 mmol) and 3-(1-pyrrolidinylmethyl)aniline (134mg, 0.75 mmol) were combined in a vessel with 5 mL isopropanol and 2 drops of 12N HCl. The vessel was sealed and heated with stirring at 95° C. for 18 h. The reaction was cooled to room temperature and the solid was filtered off and washed with isopropanol to give 178 mg (65% yield) of an orange solid as the HCl salt. MS: M(C22H23ClN6O)=422.92, (M+H)+=423 and 425.

reactant | 2-[(2,5-Dichloro-4-pyrimidinyl)amino]benzamide | 0.6 mmol, 200 mg | ClC1=NC=C(C(=N1)NC1=C(C(=O)N)C=CC=C1)Cl | C11H8Cl2N4O
reactant | 3-(1-pyrrolidinylmethyl)aniline | 0.75 mmol, 134mg | N1(CCCC1)CC=1C=C(N)C=CC1 | C11H16N2
reactant | HCl | Cl | ClH
catalyst | HCl | 12N, 2 drops | Cl | ClH
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 2-[(5-Chloro-2-{[3-(1-pyrrolidinylmethyl)phenyl]amino}-4-pyrimidinyl)amino]benzamide | 178 mg, 65% yield | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)CN1CCCC1)NC1=C(C(=O)N)C=CC=C1 | C22H23ClN6O
